US04412856
To a solution of 25.2 g (0.1 mole) of 1-4-(bromophenoxy)-2-diethylaminoethane and 17.8 g (0.1 mole) of 1-fluoro-4-(3-hydroxy-3-methyl-1-butyn-1-yl)benzene in 250 ml of triethylamine are added, under nitrogen, 11.2 g of pulverised potassium hydroxide, 0.7 g of the palladium complex PdCl2 [P(C6H5)3 ]2 and 0.13 g of copper(I) iodide. The reaction mixture is subsequently stirred for 14 hours at 80° C. The reaction mixture is taken up in 250 ml of ether and the solution is washed twice with 100 ml of water and 100 ml of aqueous K2CO3 solution, treated with activated charcoal and evaporated to dryness. Vacuum distillation of the residue yields 9.5 g (33%) of 1-[4-(4-fluorophenylethynyl)phenoxy]-2-diethylaminoethane with a boiling point of 156°-162° C./0.08 mb.

reactant | 1-fluoro-4-(3-hydroxy-3-methyl-1-butyn-1-yl)benzene | 0.1 mole, 17.8 g | FC1=CC=C(C=C1)C#CC(C)(C)O | C11H11FO
reactant | potassium hydroxide | 11.2 g | [OH-].[K+]
reactant | P(C6H5)3 | P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 250 ml | C(C)N(CC)CC | C6H15N
solvent | ether | 250 ml | CCOCC | C4H10O
catalyst | palladium | 0.7 g | [Pd] | Pd
catalyst | copper(I) iodide | 0.13 g | [Cu]I
product | 1-[4-(4-fluorophenylethynyl)phenoxy]-2-diethylaminoethane | 9.5 g, 33% | FC1=CC=C(C=C1)C#CC1=CC=C(OCCN(CC)CC)C=C1 | C20H22FNO
